US08440830B2
To a solution of cyanobromide (0.6 eq) in diethyl ether, a solution of 4-methoxy phenyl amine (1.0 eq) in diethyl ether was added and the reaction mixture was stirred at room temperature for 2 h. Salt separated out was filtered and the filtrate was concentrated to afford the desired 4-methoxy-phenyl-cyanamide in good yield.

reactant | cyanobromide | 0.6 eq | C(#N)Br | CBrN
reactant | 4-methoxy phenyl amine | 1.0 eq | COC1=CC=C(C=C1)N | C7H9NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-methoxy-phenyl-cyanamide | COC1=CC=C(C=C1)NC#N | C8H8N2O
